Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with dementia, discharged today after a fall 
and 2 broken ribs presents after a new fall. The patient was 
admitted on ___ after an unwitnessed, presumably mechanical 
fall. He had no events on telemetry and his pain was 
controllable with Tylenol. He was seen by physical therapy and 
discharged to his assisted living (has 8 hour/day care) with ___ 
to visit at home. Per report (the patient does not recall), the 
patient fell at his Assisted Living within 15 minutes of 
arrival. The fall was unwitnessed and he returned to the ED for 
evaluation.  
.  
Initial vitals were 94.8, 181/90 64 16 96% RA. His temperature 
was subsequently ___ and BP improved. He had a CT head and 
C-spine without bleed or fracture. He had a CXR without an acute 
process. He does not recall the events of the fall. He was seen 
by CM who recommended admission for ___ re-evaluation. ED notes 
indicate the fall was mechanical.  
.  
Currently, he is resting and has no complaints. He is unclear as 
to why he is in the hospital. He reports his pain is controlled 
and he denies headache, chest pain, shortness of breath, 
abdominal pain, n/v/d. He ate today, does not know when his last 
BM was.  
 
Past Medical History:
Dementia  
Hypertension  
Hypothyroidism  
Hyponatremia  
Urinary incontinence  
History of Weinckebach  
s/p pacemaker placement (VDD mode)  

 
Social History:
___
Family History:
Mother died of MI at a "somewhat young age."  Patient is 
youngest of ___. He recalls that one brother died of an MI. No FH 
of DM or sudden death. Does not know health status of his 
children.  

 
Physical Exam:
VS: 96.9 122/60 65 16 95% RA  
Gen: asleep, arousable to name, oriented to self only. Falls 
asleep easily, unable to provide history  
HEENT: EOMI, OP clear, MMM  
Car: Regular, III/VI cresc-decres murmur, RUSB  
Chest: mild tenderness over right anterior ribs  
Resp: Clear bilaterally-poor effort  
Abd: s/nt/nd/nabs  
Ext: no ___ edema  
Neuro: deferred at this time  

 
Pertinent Results:
___ 07:50AM BLOOD WBC-6.5 RBC-3.79* Hgb-11.7* Hct-32.8* 
MCV-87 MCH-30.9 MCHC-35.7* RDW-13.7 Plt ___
___ 01:00PM BLOOD Neuts-73.5* ___ Monos-5.0 Eos-1.6 
Baso-0.3
___ 01:00PM BLOOD Glucose-119* UreaN-14 Creat-0.7 Na-137 
K-4.1 Cl-100 HCO3-29 AnGap-12
___ 05:45AM BLOOD CK(CPK)-135
___ 05:45AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:45AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0
___   Radiology CT HEAD W/O CONTRAST (prelim)
No intracranial hemorrhage or edema.
___-SPINE W/O CONTRAST
No evidence of acute fracture or change in alignment. Multilevel 
degenerative disc disease is again noted, unchanged from prior 
exam. If there is concern for acute cord injury, MRI may be 
obtained. 
___   Radiology CHEST (PA & LAT)
1. 1.5-cm left lower lobe nodule better seen on CT from 
yesterday, for which three-month followup is recommended to 
assess stability. 
2. Right sixth posterolateral rib fracture as seen on prior CT. 
No pneumothorax. 

 
Brief Hospital Course:
___ year old male with dementia and now multiple falls, s/p right 
rib fractures presenting for ___ re-evaluation.  
.  
1. Falls: clear description of fall not currently available, but 
reported to be mechanical. ROS is negative, though reliability 
of history unclear. No new injuries or complaint of pain. CT 
head and C-spine clear. Continue Tylenol for rib fracture. 
Continue calcium/vit D started yesterday. He does have a history 
of aortic stenosis, but has a prominent murmur on exam.
Patient was discharged with plan for 24 hour care as per 
previous ___ evaluation.
- Consider repreat echocardiogram as outpatient as worsening AS 
can cause syncope.
.  
2. Hypertension: hypertensive at arrival, currently controlled. 
Continued outpatient regimen of fosinopril and amlodipine.
.  
3. Hypothyroidism: Continued outpatient levothyroxine  
.  
4. Dementia: Continued home meds, Zyprexa & Aricept  
.  
5. High cholesterol: Continued Aspirin & Simvastatin.  
.  
6. Anemia: stable, no e/o bleeding. 
.  
7. FEN: Regular diet. Electrolytes stable, will not recheck.  
.  
8. PPx: HSQ, PPI, BR  
.  
9. DNR/DNI, form in chart  
.  
Son ___, ___ home; ___ (cell)  

 
Medications on Admission:
1. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1)  

Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Calcium 600 with Vitamin D3 600 mg(1,500mg) -400 unit Capsule 
Sig: One (1) Capsule PO once a day.  
Disp:*30 Capsule(s)* Refills:*2*  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed for constipation.  
10. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY  
11. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY  
12. Olanzapine 2.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. Fosinopril 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
14. Fosamax 35 mg Tablet Sig: One (1) Tablet PO once a week.  
Disp:*4 Tablet(s)* Refills:*2*  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Fall, likely mechanical
Hypertension
Hypothyroidism
Dementia
High cholesterol
Anemia

 
Discharge Condition:
Stable.  24 hour obeservation

 
Discharge Instructions:
You were admitted with falls.  As the workup for this has 
already been completed, you were discharged back to your home 
facility.  You should have 24 hour care to prevent further falls 
until cleared by your doctor and ___ therapy.  Your doctor 
may suggest getting an ultrasound of your heart as an 
outpatient.

If you have any concerning symptoms, please seek medical 
attention.
 
Followup Instructions:
___